US06465507B2
3-Benzenesulfonyl-2-oxo-piperidine-1-carboxylic acid tert-butyl ester from above in toluene (50 mL) was heated at 80° C. for one hour. The reaction mixture was concentrated and the resulting oil was purified by column chromatography (20-30% EtOAc in Hexane) to give 2 g of 6-oxo-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as an oil.

reactant | 3-Benzenesulfonyl-2-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C(CCC1)S(=O)(=O)C1=CC=CC=C1)=O | C16H21NO5S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 6-oxo-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1CCC=CC1=O | C10H15NO3
